US06645970B2
a) 1-Bromo-3-(2-triisopropylsilyloxy-ethoxy)-naphtalene
A stirred mixture of 4.38 g (19.6 mmol) of 1-bromo-naphtalen-3-ol (prepared according to the procedure of M. S. Newman, V. Sankaran, D. R. Olson, J. Am. Chem. Soc. 1976, 98, 3237-3242), 5.52 g (19.6 mmol) of 1-bromo-2-triisopropylsilyloxy-ethane, 13.56 g (98.1 mmol) of potassium carbonate and 1.45 g (3.9 mmol) of tetrabutylammonium iodide in 50 mL of dimethylformamide is heated to 60° C. for 4 hours. Then an additional 0.55 g (2.0 mmol) of 1-bromo-2-triisopropylsilyloxy-ethane are added and stirring is continued for another hour at 60° C., after which TLC analysis indicated complete consumption of 1-bromo-naphtalen-3-ol.

reactant | 1-bromo-naphtalen-3-ol | 19.6 mmol, 4.38 g | BrC1=CC(=CC2=CC=CC=C12)O | C10H7BrO
reactant | 1-bromo-2-triisopropylsilyloxy-ethane | 19.6 mmol, 5.52 g | BrCCO[Si](C(C)C)(C(C)C)C(C)C | C11H25BrOSi
reactant | potassium carbonate | 98.1 mmol, 13.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-triisopropylsilyloxy-ethane | 2.0 mmol, 0.55 g | BrCCO[Si](C(C)C)(C(C)C)C(C)C | C11H25BrOSi
catalyst | tetrabutylammonium iodide | 3.9 mmol, 1.45 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 1-Bromo-3-(2-triisopropylsilyloxy-ethoxy)-naphtalene | BrC1=CC(=CC2=CC=CC=C12)OCCO[Si](C(C)C)(C(C)C)C(C)C | C21H31BrO2Si
